US04366189
Reaction of this 2-(4-methylphenyl)-4-methylpyrimidine with N-bromosuccinimide, as described in Example 15, affords 2-(4-bromomethylphenyl)-4-methylpyrimidine with a melting point of 104°-106° C. after recrystallisation from ligroin. A mixture of 105 g of 2-(4-bromomethylphenyl)-4-methylpyrimidine and 265 g of triethylphosphite is slowly heated, with stirring, to 150° C., while simultaneously distilling off ethyl bromide, and then stirred for 5 hours at this temperature. After distilling off excess triethylphosphite, the phosphate is obtained in a yield of 125 g in the form of a light brown viscous oil.

reactant | 2-(4-methylphenyl)-4-methylpyrimidine | CC1=CC=C(C=C1)C1=NC=CC(=N1)C | C12H12N2
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
product | 2-(4-bromomethylphenyl)-4-methylpyrimidine | BrCC1=CC=C(C=C1)C1=NC=CC(=N1)C | C12H11BrN2
